US04154737
A flask was equipped as in Example 1. To a solution of maleic anhydride (1.8 parts) in 5.2 parts acetone was added a solution of 1 part hexamethylenediamine, 0.3 part triethylamine and 1.5 parts acetone over a 30-minute period. The resulting heterogeneous reaction mixture was maintained at 40°-50° C. for 30 minutes. Magnesium chloride hexahydrate (0.075 part) and 2.3 parts acetic anhydride were added all at once. The reaction mixture was maintained at 50° C. for 3 hours. Water (11 parts) was added to the cooled mixture and the precipitated product isolated by vacuum filtration. The filter cake was washed with water and dried in a vacuum oven. A 22% yield of N,N'-hexamethylenedimaleimide, m.p. 136°-139° C., was obtained.

reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | hexamethylenediamine | NCCCCCCN | C6H16N2
reactant | Magnesium chloride hexahydrate | O.O.O.O.O.O.[Cl-].[Mg+2].[Cl-]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetone | CC(=O)C | C3H6O
solvent | Water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N,N'-hexamethylenedimaleimide | 22% yield | C1(C=CC(N1CCCCCCN1C(C=CC1=O)=O)=O)=O | C14H16N2O4
